US07411072B2
11-Fluoromethylene-6,11-dihydro-dibenzo[b,e]oxepine
Dissolve 11-Bromomethylene-6,11-dihydro-dibenzo[b,e]oxepine (1 eq.) in dry THF (0.1 M). Cool the solution to −78 C in a dry ice/acetone bath. Slowly add s-butyl lithium (1.2 eq., 1.3 M in cyclohexane) to the above solution. Stir the dark brown solution at −78 C. for two hours. Add a solution of N-fluorobenzene sulfonimide (1.2 eq.) in dry THF (0.4 M) over 2 minutes. Remove the cold bath and allow the reaction mixture to warm to ambient temperature. Stir the reaction mixture at room temperature for 1 hour. Quench the reaction with water. Wash the resulting mixture with saturated aqueous NaHCO3.

reactant | 11-Bromomethylene-6,11-dihydro-dibenzo[b,e]oxepine | 1 eq. | BrC=C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C15H11BrO
reactant | s-butyl lithium | 1.3 M, 1.2 eq. | C(C)(CC)[Li]
reactant | N-fluorobenzene sulfonimide | 1.2 eq. | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
solvent | THF | 0.4 M | C1CCOC1 | C4H8O
product | 11-Fluoromethylene-6,11-dihydro-dibenzo[b,e]oxepine | FC=C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C15H11FO
